US06939885B2
Synthesis of N-[4-Chloro-2-(pyridine-3-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using 116 mg of (2-Amino-5-chloro-phenyl)-pyridin-3-yl-methanone and 122 mg of 4-oxazol-5-yl-benzenesulfonyl chloride. 1H-NMR (400 MHz, CDCl3): δ 7.23 (m, 2H), 7.42-7.47 (m, 3H), 7.58-7.62 (m, 3H), 7.71 (dt, 1H, J=7.6 Hz, 2.0 Hz), 7.88 (s, 1H), 8.45 (b, 1H), 8.58 (bd, 1H, J=3.6 Hz), 9.67 (s, 1H). MS: m/z 458.1 (M++1)

reactant | (2-Amino-5-chloro-phenyl)-pyridin-3-yl-methanone | 116 mg | NC1=C(C=C(C=C1)Cl)C(=O)C=1C=NC=CC1 | C12H9ClN2O
reactant | 4-oxazol-5-yl-benzenesulfonyl chloride | 122 mg | O1C=NC=C1C1=CC=C(C=C1)S(=O)(=O)Cl | C9H6ClNO3S
product | N-[4-Chloro-2-(pyridine-3-carbonyl)-phenyl]-4-oxazol-5-yl-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=CO1)C(=O)C=1C=NC=CC1 | C21H14ClN3O4S
